US05262415
(b) 6-(2-t-butoxycarbonylhydrazino)-3-nitropyridine
2-Hydrazino-5-nitropyridine hydrochloride (1 g, 5.3 mmol) was suspended in the mixed solvent of 20 ml of dioxane, 1 ml of DMF and 2.5 ml of triethylamine, and 2.4 ml of di-t-butyl dicarbonate was added thereto with stirring. The reaction solution was refluxed for 2 hours. After completion of the reaction, the reaction solution was filtered. The solvent was removed from the reaction solution by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (eluent: hexane:ethyl acetate=3:2 (v/v)) to obtain 1.27 g of the intended product as a yellow powder (m.p.: 132.5°-134° C.).

reactant | 2-Hydrazino-5-nitropyridine hydrochloride | 5.3 mmol, 1 g | Cl.N(N)C1=NC=C(C=C1)[N+](=O)[O-]
reactant | dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | di-t-butyl dicarbonate | 2.4 ml | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
product | 6-(2-t-butoxycarbonylhydrazino)-3-nitropyridine | 1.27 g | C(C)(C)(C)OC(=O)NNC1=CC=C(C=N1)[N+](=O)[O-] | C10H14N4O4
